US07598419B2
(E,E)-2-(Benzylaminocarbonyl)-3-(4-hydroxy-3-methoxystyryl)acrylonitrile
The compound was prepared as described in Example 37 by adding piperidine to a solution of 4-hydroxy-3-methoxycinnamaldehyde (35 mg, 0.2 mmol) and N-(cyanoacetyl)benzylamide (34 mg, 0.2 mmol) in ethanol. After recrystallization from ethanol-water a yellow solid was obtained (50 mg, 75%). The product gave the following analytical data:

reactant | piperidine | N1CCCCC1 | C5H11N
reactant | 4-hydroxy-3-methoxycinnamaldehyde | 0.2 mmol, 35 mg | OC1=C(C=C(C=CC=O)C=C1)OC | C10H10O3
reactant | N-(cyanoacetyl)benzylamide | 0.2 mmol, 34 mg | C(#N)CC(=O)[N-]CC1=CC=CC=C1
solvent | ethanol | C(C)O | C2H6O
product | (E,E)-2-(Benzylaminocarbonyl)-3-(4-hydroxy-3-methoxystyryl)acrylonitrile | C(C1=CC=CC=C1)NC(=O)\C(\C#N)=C\C=C\C1=CC(=C(C=C1)O)OC | C20H18N2O3
